US08445501B2
trans-4-(2-Cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetylamino)-cyclohexyl]-amide
Starting from trans-4-(2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A161) acetic acid chlorocarbonyl-methyl ester the title compound is obtained as colorless solid.

reactant | trans-4-(2-cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=C2)OCC2CC2 | C23H27N5O2
reactant | acetic acid chlorocarbonyl-methyl ester | ClC(=O)COC(C)=O | C4H5ClO3
product | trans-4-(2-Cyclopropylmethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetylamino)-cyclohexyl]-amide | OCC(=O)N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=C2)OCC2CC2 | C25H29N5O4
